US07732618B2
c.) (5-tert-Butoxycarbonylamino-2-propyl-benzoimidazol-1-yl)-acetic acid tert-butyl ester.
Butyraldehyde (0.65 mL, 9.0 mmol) and acetic acid (7 drops) were added to a solution of (2-amino-4-tert-butoxycarbonylamino-phenylamino)-acetic acid tert-butyl ester (2.2 g, 6.5 mmol) in EtOH (100 mL), and stirred overnight at 70° C. The reaction mixture was cooled to ambient temperature and concentrated under reduced pressure to give the crude sub-title compound that was used without further purification. MS calculated for C21H31N3O4+H: 390, observed: 390.

reactant | Butyraldehyde | 9.0 mmol, 0.65 mL | C(CCC)=O | C4H8O
reactant | (2-amino-4-tert-butoxycarbonylamino-phenylamino)-acetic acid tert-butyl ester | 6.5 mmol, 2.2 g | C(C)(C)(C)OC(CNC1=C(C=C(C=C1)NC(=O)OC(C)(C)C)N)=O | C17H27N3O4
catalyst | acetic acid | 7 drops | C(C)(=O)O | C2H4O2
solvent | EtOH | 100 mL | CCO | C2H6O
product | (5-tert-Butoxycarbonylamino-2-propyl-benzoimidazol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)NC(=O)OC(C)(C)C)CCC)=O | C21H31N3O4
